US07589232B2
Step a) Formation of ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]benzoate
The titled compound was prepared following the procedure B using ethyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)benzoate and 3-cyclopentylpropanoyl chloride as a yellow oil (79%). 1H NMR (CDCl3, 300 MHz) δ 8.01 (d, J=8.3 Hz, 2H), 7.41 (m, 4H), 7.14 (m, 4H), 7.04 (d, J=8.3 Hz, 2H), 4.89 (s, 2H), 4.39 (q, J=6.8 Hz, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.09 (m, 2H), 1.80-1.25 (m, 16H), 1.00-0.88 (m, 5H). M+ (ESI): 536.9. HPLC, Rt: 6.58 min (Purity: 98.7%).

reactant | ethyl 4-({4-[(4-butylphenyl)ethynyl]benzyl}amino)benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C28H29NO2
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(3-cyclopentylpropanoyl)amino]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)OCC)C=C2)C(CCC2CCCC2)=O)C=C1 | C36H41NO3
